US05874272
Escherichia coli cells containing the recombinant DNA collected in Example 2 (3) were suspended (cell concentration was 100 g wet cell weight/ml) in 100 mM Tris-hydrochloride buffer (pH 8.0) containing 10 mM ATP, 10 mM inosine and 5 mM magnesium sulfate. Xylene was added to the suspension in a concentration of 10 ml/l. After thoroughly stirring, the mixture was allowed to stand at 30° C. for an hour. The reaction solution was analyzed by HPLC and an amount of 51 -IMP in the reaction solution was quantitatively determined. Almost all transformants did not produce 5'-IMP but 5'-IMP-producing bacteria were obtained in a proportion of 1 out of 50,000 samples, The thus obtained 5'-IMP-producing bacteria are transformants carrying a recombinant DNA containing inosine guanosine-kinase gene.

reactant | ATP | 10 mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | inosine | 10 mM | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O5
reactant | magnesium sulfate | 5 mM | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | Xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 5'-IMP | C1=NC(=O)C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)O)O)O | C10H13N4O8P
